US09102591B2
A solution of 5-bromo-2-(trifluoromethyl)pyridine (3.80 g, 16.82 mmol) in THF (24 ml) was cooled at −18° C. A solution of isopropylmagnesium chloride lithium chloride complex in THF (17.97 ml, 14.02 mmol, 0.78 molar) was added dropwise over a period of 30 minutes. The reaction was then cooled at −78° C. kept there for 1½ hour. The reaction was allowed to reach −3° C. before being cooled to −10° C. A solution of N-methoxy-N,1-dimethyl-1H-pyrazole-4-carboxamide (2.372 g, 14.02 mmol) in THF (8 ml) was added dropwise over a period of 5 minutes. The reaction was allowed to warm to room temperature and stirred over night. Cooled to 0° C. and a 2 Ni HCl solution (150 mL) was added slowly. The crude mixture was extracted with AcOEt (3×150 mL), the combined org. phases were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was purified by comlumn chromatography to yield (1-methyl-1H-pyrazol-4-yl)(6-(trifluoromethyl)pyridin-3-yl)methanone 1.22 g (34%) as a light yellow solid.

reactant | 5-bromo-2-(trifluoromethyl)pyridine | 16.82 mmol, 3.80 g | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | N-methoxy-N,1-dimethyl-1H-pyrazole-4-carboxamide | 14.02 mmol, 2.372 g | CON(C(=O)C=1C=NN(C1)C)C | C7H11N3O2
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | Ni HCl | 150 mL | [Ni].Cl
solvent | THF | 14.02 mmol, 0.78 molar, 17.97 ml | C1CCOC1 | C4H8O
product | (1-methyl-1H-pyrazol-4-yl)(6-(trifluoromethyl)pyridin-3-yl)methanone | 1.22 g, 34% | CN1N=CC(=C1)C(=O)C=1C=NC(=CC1)C(F)(F)F | C11H8F3N3O
